US04509537
2-(2-Methoxyphenoxycarbonyloxy)-4-pentanol
The reaction of 2-methoxyphenol chloroformate with 2,4-pentanediol is conducted on a 0.01 mole scale employing the same conditions as described in Example III. A 1.5 g yield of the pure product is obtained as an oil.

reactant | 2-methoxyphenol chloroformate | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
reactant | 2,4-pentanediol | CC(CC(C)O)O | C5H12O2
product | 2-(2-Methoxyphenoxycarbonyloxy)-4-pentanol | COC1=C(OC(=O)OC(C)CC(C)O)C=CC=C1 | C13H18O5
